US05093364
Sodium hydride (80% in oil; 1.2 g) was added slowly to a stirred suspension of 7-fluoro-1H-3,1-benzoxazine-2,4-dione (7 g). Effervescence occurred and a clear solution was produced. Ethyl bromoacetate (4.5 ml) was added and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated and the residue was diluted with water. The solid (9.5 g) was filtered off and washed with water and hexane and dried. This solid (5.4 g) was added to a solution of sodium carbonate (5.3 g) in water (60 ml). After stirring for 6 hours the undissolved solid was filtered off. The filtrate was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The solid was purified by flash chromatography and recrystallised from diisopropyl ether to give 4-fluoro-N-(ethoxycarbonylmethyl)- anthranilic acid, mp. 123°-125°. (Compound 11).

reactant | Sodium hydride | 1.2 g | [H-].[Na+]
reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 7 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | Ethyl bromoacetate | 4.5 ml | BrCC(=O)OCC | C4H7BrO2
product | 4-fluoro-N-(ethoxycarbonylmethyl)- anthranilic acid | FC=1C=C(C(C(=O)O)=CC1)NCC(=O)OCC | C11H12FNO4
